US08030500B2
(R) and (S) 4-Fluoro-1-(pyridin-4-yl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine
Chromatographic separation of the enantiomers of 4-fluoro-1-(pyridin-4-yl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine-4-fluoro-1-(pyridin-4-yl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine (1 g, 2.62 mmol) was dissolved in methanol (30 mL) and the resulting solution was injected (30 stacked injections) on a Chiralcel OD column (20×250 mm), using methanol/CO2 (30:70) as eluent at a flow rate of 50 mL/min. Detection was monitored at 220 nm and the two isomers were collected and concentrated in vacuo. Isomer 1, 414 mg with unknown absolute configuration was collected:

reactant | 4-fluoro-1-(pyridin-4-yl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine 4-fluoro-1-(pyridin-4-yl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine | 2.62 mmol, 1 g | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=CC=C1)C=1C=NC=NC1)C1=CC=NC=C1)N.FC1=C2C(=NC(C2=CC=C1)(C1=CC(=CC=C1)C=1C=NC=NC1)C1=CC=NC=C1)N | 2C23H16FN5
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol CO2 | CO.C(=O)=O
product | 4-Fluoro-1-(pyridin-4-yl)-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=CC=C1)C=1C=NC=NC1)C1=CC=NC=C1)N | C23H16FN5
